US04267176
10% Palladium on carbon (216 mg.) was added to a solution of 4-nitrobenzyl 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (540 mg.) in tetrahydrofuran (10 ml.), methanol (5 ml.), acetic acid (0.075 ml.), and water (0.75 ml.). The mixture was subjected to catalytic reduction at ambient temperature under ordinary pressure for 5 hours, and then allowed to stand overnight. After filtered off the catalyst, the filtrate was concentrated under reduced pressure. Ethyl acetate and an aqueous solution of sodium bicarbonate were added to the residue, and the aqueous layer was separated. The solution was adjusted to pH 2 with 10% hydrochloric acid. The appeared precipitates were collected by filtration, washed with water and dried to give 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (300 mg.), mp. 202° to 204° C. (dec.).

reactant | 4-nitrobenzyl 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 540 mg | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C23H20N6O8S
reactant | water | 0.75 ml | O | H2O
catalyst | Palladium on carbon | 216 mg | [Pd] | Pd
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
solvent | acetic acid | 0.075 ml | C(C)(=O)O | C2H4O2
product | 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 300 mg | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C16H15N5O6S
